US06600052B1
The 3,4-diflourobenzaldehyde (52.1 g, 0.36 mol) was dissolved in acetonitrile (500 mL). Sodium thiomethoxide (25.6 g, 0.36 mol) was added in four equal portions at 15 minute intervals. The slightly exothermic reaction was stirred at room temperature for 4 hours. The reaction mixture was poured into ethyl acetate (500 mL) and extracted with saturated sodium bicarbonate (2×200 mL) followed by saturated ammounium chloride (2×100 mL). The solution was dried over sodium sulfate and solvent removed at reduced pressure. The 3-flouro-4-(methylthio)-benzaldehyde (38.5 g, 0.22 mol) was isolated by vacuum distillation (135-145° C. at 25 mm Hg) as clear liquid. (61% yield) ESHRMS m/z 171.0302 (calcd for M+H, 171.0280).

reactant | 3,4-diflourobenzaldehyde | 0.36 mol, 52.1 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | Sodium thiomethoxide | 0.36 mol, 25.6 g | C[S-].[Na+]
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | 3-flouro-4-(methylthio)-benzaldehyde | 0.22 mol, 38.5 g, 61% yield | FC=1C=C(C=O)C=CC1SC | C8H7FOS
